US06358971B1
2-Trifluoroacetamido-3-phenyl-6-(2,3-difluorobenzoyl)-imidazo[1,2-a]pyridine
To a solution of 2,3-difluorobromobenzene (471 ml, 4.206 mmol) in dry THF (20 mL) was added a solution of n-butyl lithium (1.6M in hexanes, 2.63 mL) at −78° C. The resulting yellow solution was stirred at the same temperature for 70 minutes, then a solution of 2-trifluoroacetamido-3-phenyl-6-(N-methyl-N-methoxycarbamoyl)imidazo[1,2-a]pyridine (0.500 g, 1.28 mmol) in dry THF (20 mL), was added dropwise via a cannula. The red-orange solution was allowed to warm over 60 minutes. Saturated NH4Cl was added and the mixture was stirred for 25 minutes before extracting with EtOAc. The organic layer was washed with brine, dried (Na2SO4), concentrated in vacuo and purified by column chromatography (CH2Cl2/CH3CN 4/1) to give 390 mg of an orange solid. (69%). MS(FAB), NMR.

reactant | 2,3-difluorobromobenzene | 4.206 mmol, 471 ml | FC1=C(C=CC=C1F)Br | C6H3BrF2
reactant | n-butyl lithium | 1.6M, 2.63 mL | C(CCC)[Li]
reactant | 2-trifluoroacetamido-3-phenyl-6-(N-methyl-N-methoxycarbamoyl)imidazo[1,2-a]pyridine | 1.28 mmol, 0.500 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(N(OC)C)=O)C1C1=CC=CC=C1)(F)F | C18H15F3N4O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Trifluoroacetamido-3-phenyl-6-(2,3-difluorobenzoyl)-imidazo[1,2-a]pyridine | 390 mg | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=C(C(=CC=C2)F)F)=O)C1C1=CC=CC=C1)(F)F | C22H12F5N3O2
